US07589206B2
(a) 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid isobutyl-amide
Prepared in a similar manner to Example 19 (e) from 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid using isobutylamine (28 mg) instead of tetrahydro-pyran-4-ylmethylamine to give the title compound (38 mg).

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | ClC1=NC=C(C2=C1NC=C2)C(=O)O | C8H5ClN2O2
reactant | isobutylamine | 28 mg | C(C(C)C)N | C4H11N
product | 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid isobutyl-amide | 38 mg | C(C(C)C)NC(=O)C=1C2=C(C(=NC1)Cl)NC=C2 | C12H14ClN3O
